US09303035B2
Step 2: 6-(2,3-Dihydroxypropyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
2M HCl in Et2O (5.36 ml, 10.71 mmol) was added dropwise to a solution of 6-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (470 mg, 1.071 mmol) in acetonitrile (10.7 ml) and water (386 mg, 21.43 mmol). The mixture was stirred at room temperature for 1 hour, then evaporated under vacuum to afford the title compound.

reactant | HCl | 2M | Cl | ClH
reactant | Et2O | 10.71 mmol, 5.36 ml | CCOCC | C4H10O
reactant | 6-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 1.071 mmol, 470 mg | CC1(OCC(O1)CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)C | C18H22N4O4S
reactant | water | 21.43 mmol, 386 mg | O | H2O
solvent | acetonitrile | 10.7 ml | C(C)#N | C2H3N
product | 6-(2,3-Dihydroxypropyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | OC(CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)CO | C15H18N4O4S
